US08283353B2
3′-fluoro-4′-({4-[trans-4-(3-fluoro-2-hydroxy-1-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 3′-fluoro-4′-({4-[trans-4-(1-oxiran-2-ylethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.15 g), tetra-n-butylammonium dihydrogentrifluoride (0.49 g) and chlorobenzene (0.5 mL) was stirred at 120° C. for 24 hr and then at room temperature for 40 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.081 g, 51%).

reactant | 3′-fluoro-4′-({4-[trans-4-(1-oxiran-2-ylethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.15 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C)C2OC2)=O)C=2C(=CC=CC2)C#N | C32H34FN5O3
reactant | tetra-n-butylammonium dihydrogentrifluoride | 0.49 g | CCCC[N+](CCCC)(CCCC)CCCC.F.F.[F-]
solvent | chlorobenzene | 0.5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3′-fluoro-4′-({4-[trans-4-(3-fluoro-2-hydroxy-1-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.081 g, 51% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(CF)O)C)=O)C=2C(=CC=CC2)C#N | C32H35F2N5O3
